US08664220B2
Step 2: 1-{4′-[3-Methyl-4-(3-phenyl-piperidin-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-3-phenyl-piperidine and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-3-phenyl-piperidine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CN1CC(CCC1)C1=CC=CC=C1 | C22H23BrN2O
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[3-Methyl-4-(3-phenyl-piperidin-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1CC(CCC1)C1=CC=CC=C1 | C34H36N2O3
